Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[C:1]([NH2:2])[C@@H:3]([CH2:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[O:11][c:12]1[c:13]([Br:14])[cH:15][c:16](-[c:17]2[c:18]3[cH:19][cH:20][cH:21][cH:22][c:23]3[c:24]([Br:25])[c:26]3[s:27][c:28]4[cH:29][cH:30][cH:31][cH:32][c:33]4[c:34]23)[cH:35][c:36]1[Br:37]>>[C:1](#[N:2])[C@@H:3]([CH2:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[O:11][c:12]1[c:13]([Br:14])[cH:15][c:16](-[c:17]2[c:18]3[cH:19][cH:20][cH:21][cH:22][c:23]3[c:24]([Br:25])[c:26]3[s:27][c:28]4[cH:29][cH:30][cH:31][cH:32][c:33]4[c:34]23)[cH:35][c:36]1[Br:37],[O:101]=[C:1]([NH2:2])[C@@H:3]([CH2:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[O:11][c:12]1[c:13]([Br:14])[cH:15][c:16](-[c:17]2[c:18]3[cH:19][cH:20][cH:21][cH:22][c:23]3[c:24]([Br:25])[c:26]3[s:27][c:28]4[cH:29][cH:30][cH:31][cH:32][c:33]4[c:34]23)[cH:35][c:36]1[Br:37].[Cl:301][S:302]([Cl:303])=[O:304]>>[C:1](#[N:2])[C@@H:3]([CH2:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[O:11][c:12]1[c:13]([Br:14])[cH:15][c:16](-[c:17]2[c:18]3[cH:19][cH:20][cH:21][cH:22][c:23]3[c:24]([Br:25])[c:26]3[s:27][c:28]4[cH:29][cH:30][cH:31][cH:32][c:33]4[c:34]23)[cH:35][c:36]1[Br:37],primary_amide_dehydration,"[(2, [2, 1]), ([1, 101], 302), ([302, 304], 304), (304, [304, 302]), ([302, 301], 2.1), ([2.1, 2], 2), ([302, 303], 2.1), ([2.1, 2], [2, 1]), ([1, 101], [101, 302])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])[c:3]1[cH:4][c:5]2[cH:6][c:7]([CH:8]3[CH2:9][CH2:10][CH2:11][N:12]([CH:13]([CH3:14])[CH3:15])[CH2:16]3)[cH:17][cH:18][c:19]2[nH:20]1.[NH2:21][c:22]1[cH:23][c:24]([F:25])[cH:26][c:27]([F:28])[cH:29]1>>[C:1](=[O:2])([c:3]1[cH:4][c:5]2[cH:6][c:7]([CH:8]3[CH2:9][CH2:10][CH2:11][N:12]([CH:13]([CH3:14])[CH3:15])[CH2:16]3)[cH:17][cH:18][c:19]2[nH:20]1)[NH:21][c:22]1[cH:23][c:24]([F:25])[cH:26][c:27]([F:28])[cH:29]1,CC[O:101][C:1](=[O:2])[c:3]1[cH:4][c:5]2[cH:6][c:7]([CH:8]3[CH2:9][CH2:10][CH2:11][N:12]([CH:13]([CH3:14])[CH3:15])[CH2:16]3)[cH:17][cH:18][c:19]2[nH:20]1.[NH2:21][c:22]1[cH:23][c:24]([F:25])[cH:26][c:27]([F:28])[cH:29]1>>[C:1](=[O:2])([c:3]1[cH:4][c:5]2[cH:6][c:7]([CH:8]3[CH2:9][CH2:10][CH2:11][N:12]([CH:13]([CH3:14])[CH3:15])[CH2:16]3)[cH:17][cH:18][c:19]2[nH:20]1)[NH:21][c:22]1[cH:23][c:24]([F:25])[cH:26][c:27]([F:28])[cH:29]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(21, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
I[CH3:1].[O:2]=[C:3]([NH:4][CH2:5][CH2:6][c:7]1[cH:8][cH:9][c:10]([S:11](=[O:12])(=[O:13])[c:14]2[cH:15][cH:16][c:17]([OH:18])[c:19]([OH:20])[cH:21]2)[cH:22][cH:23]1)[C:24]([F:25])([F:26])[F:27]>>[CH3:1][O:18][c:17]1[cH:16][cH:15][c:14]([S:11]([c:10]2[cH:9][cH:8][c:7]([CH2:6][CH2:5][NH:4][C:3](=[O:2])[C:24]([F:25])([F:26])[F:27])[cH:23][cH:22]2)(=[O:12])=[O:13])[cH:21][c:19]1[OH:20],[O:2]=[C:3]([NH:4][CH2:5][CH2:6][c:7]1[cH:8][cH:9][c:10]([S:11](=[O:12])(=[O:13])[c:14]2[cH:15][cH:16][c:17]([OH:18])[c:19]([OH:20])[cH:21]2)[cH:22][cH:23]1)[C:24]([F:25])([F:26])[F:27].[I:101][CH3:1].[H-:301].[Na+]>>[CH3:1][O:18][c:17]1[cH:16][cH:15][c:14]([S:11]([c:10]2[cH:9][cH:8][c:7]([CH2:6][CH2:5][NH:4][C:3](=[O:2])[C:24]([F:25])([F:26])[F:27])[cH:23][cH:22]2)(=[O:12])=[O:13])[cH:21][c:19]1[OH:20],SN2_alcohol(thiol),"[(301, 18.1), ([18.1, 18], 18), (18, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[c:3]([O:4][CH3:5])[cH:6][cH:7][c:8]([F:9])[cH:10]1.[NH2:11][c:12]1[cH:13][cH:14][cH:15][c:16](-[c:17]2[c:18]([CH2:19][c:20]3[cH:21][cH:22][cH:23][cH:24][cH:25]3)[cH:26][n:27][c:28]3[c:29]([C:30]([F:31])([F:32])[F:33])[cH:34][cH:35][cH:36][c:37]23)[cH:38]1>>[CH2:1]([c:2]1[c:3]([O:4][CH3:5])[cH:6][cH:7][c:8]([F:9])[cH:10]1)[NH:11][c:12]1[cH:13][cH:14][cH:15][c:16](-[c:17]2[c:18]([CH2:19][c:20]3[cH:21][cH:22][cH:23][cH:24][cH:25]3)[cH:26][n:27][c:28]3[c:29]([C:30]([F:31])([F:32])[F:33])[cH:34][cH:35][cH:36][c:37]23)[cH:38]1,[NH2:11][c:12]1[cH:13][cH:14][cH:15][c:16](-[c:17]2[c:18]([CH2:19][c:20]3[cH:21][cH:22][cH:23][cH:24][cH:25]3)[cH:26][n:27][c:28]3[c:29]([C:30]([F:31])([F:32])[F:33])[cH:34][cH:35][cH:36][c:37]23)[cH:38]1.[O:101]=[CH:1][c:2]1[c:3]([O:4][CH3:5])[cH:6][cH:7][c:8]([F:9])[cH:10]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[c:3]([O:4][CH3:5])[cH:6][cH:7][c:8]([F:9])[cH:10]1)[NH:11][c:12]1[cH:13][cH:14][cH:15][c:16](-[c:17]2[c:18]([CH2:19][c:20]3[cH:21][cH:22][cH:23][cH:24][cH:25]3)[cH:26][n:27][c:28]3[c:29]([C:30]([F:31])([F:32])[F:33])[cH:34][cH:35][cH:36][c:37]23)[cH:38]1,reductive_amination,"[(11, 1), ([1, 101], 301), (101, 11.1), ([11.1, 11], 11), (11, [11, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 11], 11)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
